US07704995B2
To a solution of 3-amino-N-methyl-6-(3-{[(3R)-pyrrolidin-3-ylamino]carbonyl}phenyl)pyrazine-2-carboxamide (34.0 mg, 0.1 mmol) in acetonitrile was added K2CO3 (27.6 mg, 0.2 mmol) followed by 4-chlorobenzyl bromide (30.7 mg, 0.15 mmol). The mixture was allowed to stir at room temperature over 12 h and filtered. The acetonitrile solution was evaporated to dryness, the residue was chromatographed on silica gel using ethyl acetate/hexane 4:1 v/v and trituration of the resulting solid with hexane afforded 3-{[(4-chlorophenyl)methyl]amino}-6-{3-[({(3R)-1-[(4-chlorophenyl) methyl]pyrrolidin-3-yl}amino)carbonyl]phenyl}-N-methylpyrazine-2-carboxamide (28 mg, 47.6%yield): 1H NMR (400 MHz; DMSO-D6): 8.9 (s, 1H); 8.85 (m, 1H); 8.75 (m, 1H); 8.38 (m, 2H); 7.78-7.5 (m, 1H); 4.63 (m, 5H); 3.9 (m, 1H); 3.6 (m, 2H); 3.4 (m, 1H); 2.85 (d, 3H); 2.5 (m, 1H); 2.2 (m, 1H); MS (EI) for C31H30N6O2Cl2: 589 (MH+)

reactant | 3-amino-N-methyl-6-(3-{[(3R)-pyrrolidin-3-ylamino]carbonyl}phenyl)pyrazine-2-carboxamide | 0.1 mmol, 34.0 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)N[C@H]1CNCC1)C(=O)NC | C17H20N6O2
reactant | K2CO3 | 0.2 mmol, 27.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorobenzyl bromide | 0.15 mmol, 30.7 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-{[(4-chlorophenyl)methyl]amino}-6-{3-[({(3R)-1-[(4-chlorophenyl) methyl]pyrrolidin-3-yl}amino)carbonyl]phenyl}-N-methylpyrazine-2-carboxamide | 28 mg | ClC1=CC=C(C=C1)CNC=1C(=NC(=CN1)C1=CC(=CC=C1)C(=O)N[C@H]1CN(CC1)CC1=CC=C(C=C1)Cl)C(=O)NC | C31H30Cl2N6O2
